US07015293B2
A hexane solution of nickel octanoate was reacted with hexafluoroantimonic acid at −10° C. at a molar ratio of 1:1, and a precipitate of nickel bis(hexafluoroantimonate) [Ni(SbF6)2] formed as a by-product was removed by filtration. The resulting product was diluted with toluene. A reaction vessel was charged with 0.40 mmol (as a nickel atom) of the resulting hexafluoroantimonic acid-modified product of nickel octanoate, 1.2 mmol of boron trifluoride ethyl etherate, 8.0 mmol of methylalumoxane, 0.4 mmol of 1,5-cyclooctadiene and 8.0 mmol of methyltriethoxysilane in the order of methyltriethoxysilane, 1,5-cyclooctadiene, methylalumoxane, boron trifluoride ethyl etherate and the hexafluoroantimonic acid-modified product of nickel octanoate, and polymerization was initiated. The polymerization was conducted at 30° C. for 3 hours, and methanol was added to terminate the polymerization. The conversion rate of the monomers to the copolymer was 73%.

reactant | nickel octanoate | C(CCCCCCC)(=O)[O-].[Ni+2].C(CCCCCCC)(=O)[O-]
reactant | hexafluoroantimonic acid | F[Sb-](F)(F)(F)(F)F.[H+]
solvent | hexane | CCCCCC | C6H14
product | nickel bis(hexafluoroantimonate) | F[Sb-](F)(F)(F)(F)F.F[Sb-](F)(F)(F)(F)F.[Ni+2] | InChI=1S/12FH.Ni.2Sb/h12*1H;;;/q;;;;;;;;;;;;+2;2*+5/p-12
